US07034039B2
A solution of tert-butyl[4-(2-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.44 g, 1 mmol), 2-iodoacetamide (0.37 g, 2 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.30 mL, 2 mmol) in N,N-dimethylformamide (10 mL) was stirred at 80° C. for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-(2-amino-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.30 g, 61.2%) as crystals.

reactant | tert-butyl[4-(2-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.44 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)O)=O)CC(C)C)=O | C25H29FN2O4
reactant | 2-iodoacetamide | 2 mmol, 0.37 g | ICC(=O)N | C2H4INO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2 mmol, 0.30 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl[6-(2-amino-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.30 g, 61.2% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)OCC(=O)N)=O)CC(C)C)=O | C27H32FN3O5
